US06262074B1
Step 2: N-(2-Carboxyethyl)-3-aminobenzoic acid
266.0 g of N-(2-cyanoethyl)-3-aminobenzoic acid together with 336.0 g of sodium hydroxide in 3 l of water were heated under reflux for 5 hours. After cooling, the pH was adjusted to 3 with hydrochloric acid, the mixture was cooled and the precipitate was filtered off with suction.

reactant | N-(2-cyanoethyl)-3-aminobenzoic acid | 266.0 g | C(#N)CCNC=1C=C(C(=O)O)C=CC1 | C10H10N2O2
reactant | sodium hydroxide | 336.0 g | [OH-].[Na+]
reactant | hydrochloric acid | Cl | ClH
reactant | water | 3 l | O | H2O
product | N-(2-Carboxyethyl)-3-aminobenzoic acid | C(=O)(O)CCNC=1C=C(C(=O)O)C=CC1 | C10H11NO4
